US09212182B2
A RBF was charged with isoxazol-3-amine (0.016 g, 0.191 mmol) and THF (1.6 mL), and the vessel was cooled to −78° C. for 15 minutes. Lithium bis(trimethylsilyl)amide (1.0 M in THF) (0.208 ml, 0.208 mmol) was then added dropwise over 1 minute. The reaction was stirred for 10 minutes, and then a solution of 1-(2,3′-difluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonyl chloride (0.080 g, 0.173 mmol) in THF (1.6 mL) was added dropwise. The bath was removed, and the resulting mixture was stirred for 45 minutes. The reaction was diluted with saturated ammonium chloride (aq.) solution (30 mL), and was washed with ethyl acetate (20 mL×3). The organic layers were combined, dried over magnesium sulfate, filtered and concentrated. The resulting material was purified via MPLC (ISCO, 40 g), eluting with 0 to 100% ethyl acetate in heptanes. The solid was dried under reduced pressure to provide 1-(2,3′-difluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.012 g, 0.024 mmol, 13.60% yield) as a mixture of atropisomers. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.27 (d, J=1.76 Hz, 1 H) 8.15 (d, J=2.05 Hz, 1 H) 7.97 (br. s., 1 H) 7.74-7.84 (m, 2 H) 7.43-7.53 (m, 1 H) 7.37-7.42 (m, 1 H) 7.33 (d, J=9.98 Hz, 1 H) 7.11-7.18 (m, 2 H) 7.09 (d, J=9.49 Hz, 1 H) 6.86 (dd, J=14.67, 9.29 Hz, 2 H) 6.61 (d, J=1.76 Hz, 1 H) 3.72-3.81 (m, 3 H). m/z (ESI) 510.0 (M+H)+.

reactant | isoxazol-3-amine | 0.191 mmol, 0.016 g | O1N=C(C=C1)N | C3H4N2O
reactant | Lithium bis(trimethylsilyl)amide | 0.208 mmol, 1.0 M, 0.208 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-(2,3′-difluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonyl chloride | 0.173 mmol, 0.080 g | FC1=C(C=C(C(=C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)Cl)=O)OC)C1=CC(=CC=C1)F | C22H14ClF2NO4S
solvent | THF | 1.6 mL | C1CCOC1 | C4H8O
solvent | THF | 1.6 mL | C1CCOC1 | C4H8O
product | 1-(2,3′-difluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.024 mmol, 0.012 g, 13.60% yield | FC1=C(C=C(C(=C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC)C1=CC(=CC=C1)F | C25H17F2N3O5S
